US05492910
To a solution of N-[(1,1-dimethylethoxy)carbonyl]--O-benzyl-L-tyrosine in dry tetrahydrofuran (90 ml) cooled at -20° C. to -25° C. was added isobutyl chloroformate (8.7 ml, 67.3 mmol) followed by 4-methylmorpholine (6.8 ml, 67.3 mmol) and the mixture was stirred for 20 minutes. The precipitate was filtered and washed with dry tetrahydrofuran. The filtrate was cooled to -5° C. and poured into a diazomethane in ether solution (prepared from 1-methyl-3-nitro-1-nitrosoguanidine (29.7 g, 202 mmol) as described in Example 1 (d) at 0° C. The resulting yellow solution was kept at 0° C. for 2.0 hours, then at room temperature overnight. Nitrogen was then bubbled through the solution for 30 minutes, the solution diluted with ethyl ether (500 ml) and then washed with water, saturated sodium bicarbonate, and brine, and dried over magnesium sulfate. Concentration in vacuo afforded a yellow residue which was triturated with hexane (500 ml) to give 24.5 g of (S)-[3-diazo-2-oxo-1-[[4-(phenylmethoxy)phenyl]methyl]propyl]carbamic acid, 1,1-dimethylethyl ester.

reactant | N-[(1,1-dimethylethoxy)carbonyl]--O-benzyl-L-tyrosine | CC(C)(OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C | C21H25NO5
reactant | isobutyl chloroformate | 67.3 mmol, 8.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-methylmorpholine | 67.3 mmol, 6.8 ml | CN1CCOCC1 | C5H11NO
reactant | 1-methyl-3-nitro-1-nitrosoguanidine | 202 mmol, 29.7 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (S)-[3-diazo-2-oxo-1-[[4-(phenylmethoxy)phenyl]methyl]propyl]carbamic acid, 1,1-dimethylethyl ester | 24.5 g | [N+](=[N-])=CC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C22H25N3O4
